### PR TITLE
Ident theory solver

### PR DESCRIPTION
**Pull request by volodeyka**
In this PR I tried to introduce the `lia` analogue for arbitrary `identType`.
I have no idea how to call it, so for now its name is `hal` :))
`hal` just tries to make some preprocessing to transform some propositions on idents to correspondent propositions on `nat`'s. After that `hal` calls `lia`
If you want to make just  preprocessing where it is possible, you can use `encodify` tactic

### CODE REVIEW

File: theories/common/hal.v [hunk 1]
```diff
@@ -0,0 +1,69 @@
...
+  | |- context [ _ \in nfresh _ _ ] => rewrite ?in_nfresh
+  | H : context [ _ \in nfresh _ _ ] |- _ => rewrite ?in_nfresh in H  
+  | |- context [ _ <^i _ ] => 
+      rewrite ?/(_ <^i _) /= ?/Ident.Def.ident_lt /=
+  | H : context [ _ <^i _ ] |- _ => 
+      rewrite ?/(_ <^i _) /= ?/Ident.Def.ident_lt /= in H
+  | |- context [ _ <=^i _ ] =>
+      rewrite ?/(_ <=^i _) /= ?/Ident.Def.ident_le /=
+  | H : context [ _ <=^i _ ] |- _ => 
+      rewrite ?/(_ <=^i _) /= ?/Ident.Def.ident_le /= in H
```
Comment (eupp) [inline theories/common/hal.v:65]: So the purpose of this tactic is to perform rewrites using lemmas about `encode`?
I wonder, could it be done just with the help of `Hint Rewrite` and a separate database for such lemmas?
Or do you think that rewriting with a hint database would work significantly slower than the hand-coded matching of subgoals?

I am asking this because I have one concern with this tactic. 
The concern is that we will have to modify it each time we add a new lemma about `encode`.

**Review by eupp — COMMENTED** [review]
Very nice tactic, looks very useful. 
I left a couple of questions. 

Also, the name `hal` does not tell anything to me :) 
Perhaps, `ident_solver` or `ident_simpl` ?

File: theories/common/hal.v [hunk 2]
```diff
@@ -0,0 +1,69 @@
...
+
+Lemma ecnode_prop_eq {E : identType} (x y : E) :
+  x = y <-> encode x = encode y.
+Proof. by split=> [-> //|/encode_inj->]. Qed.
+
+Ltac encode_indets :=
+  multimatch goal with
+  | E : identType |- context [@eq_op ?E ?x ?y ] => 
+    lazymatch type of x with 
+    | nat => fail
```
[the remark this answers is not in the document]
Comment (volodeyka) [reply theories/common/hal.v:15]: Because `nat` itself is an instance for `identType`, and without this case tactic goes into the infinite cycle
For example, assume that we want to use this tactic to transform `\i0 == \i1`. Without this case, we firstly transform it   into `encode \i0 == encode \i1`. And then again transform it into `encode (encode \i0) == encode (encode \i1)`...

File: theories/common/hal.v (hunk 1 above)
Comment (volodeyka) [reply theories/common/hal.v:65]: > could it be done just with the help of  `Hint Rewrite`
I have never thought about it. It's better to try and compare
> The concern is that we will have to modify it each time we add a new lemma about encode.
We will also need to modify the database in this case :) But maybe it can be done much more easily

**Comment by volodeyka** [comment]
> Also, the name `hal` does not tell anything to me :) Perhaps, `ident_solver` or `ident_simpl` ?

Yes, we decently should rename it :) But I think may it would be better to use some abbreviation, as it was done in the following examples:
- `lia` is a decision procedure for linear integer arithmetic;
- `nia` is an incomplete proof procedure for integer non-linear arithmetic;
- `lra` is a decision procedure for linear (real or rational) arithmetic;
- `nra` is an incomplete proof procedure for non-linear (real or rational) arithmetic;

Maybe `lio` : linear ident order or something like that?

File: theories/common/hal.v (hunk 1 above)
Comment (volodeyka) [reply theories/common/hal.v:65]: Btw, the reason why I choose this variant is that I took my inspiration from this project:
 https://github.com/amahboubi/lia4mathcomp
